US07767856B2
In another embodiment, there is provided a method for forming an arylamine, comprising adding 4-bromobiphenyl and diphenylamine in toluene into a continuous plug flow reactor, the continuous plug flow reactor further comprising continuously reacting the 4-bromobiphenyl and the diphenylamine in the toluene in a presence of a base and a palladium catalyst under Buchwald conditions in the continuous plug flow reactor, adding a phosphonium-based ionic liquid with tri-t-butylphospine to the 4-bromobiphenyl and the diphenylamine in the continuous plug flow reactor, continuously reacting the 4-bromobiphenyl and the diphenylamine in the toluene and the phosphonium-based ionic liquid with the tri-t-butylphospine in the presence of the base and the palladium catalyst under Buchwald conditions in the continuous plug flow reactor until N,N-diphenyl-4-biphenylamine is produced, and collecting the N,N-diphenyl-4-biphenylamine.

reactant | 4-bromobiphenyl | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | phosphonium | [PH4+]
reactant | tri-t-butylphospine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium | [Pd] | Pd
product | N,N-diphenyl-4-biphenylamine | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19N
